US05491236
(+-)-1,2,3,4-Tetrahydro-8-methoxy-2-oxo-1-naphthalene propionic acid methyl ester (B-2, Chart B)
A three-neck, round-bottomed flask, equipped with a dropping funnel and septum, was charged with 1.76 g (10 mmol) of 8-methoxy-2-tetralone and 20 mL of THF under a nitrogen atmosphere. The solution was cooled to -30° C. and 7.5 mL (11 mmol) of LDA (1.5M in cyclohexane) was added dropwise. The solution was stirred for 30 minutes and warmed to 0° C. To this solution, 1.3 mL (12 mmol) of methyl bromopropionate was added. The solution was stirred at room temperature for two hours. The reaction was quenched with 3 N HCl until pH of the mixture was <3. THF was removed in vacuo and the concentrate was extracted with methylene chloride (2×500 mL). The organic layer was washed with brine, dried (MgSO4), filtered and concentrated in vacuo to give a yellow oil. This oil was purified by liquid chromatography on 400 g silica gel 60 (230-400 m), eluting with hexane-acetone (4:1), and collecting 40 mL fractions. Fractions homogeneous by TLC were combined and concentrated in vacuo to give 1.63 g (63%) of the title compound as a yellow oil.

reactant | 8-methoxy-2-tetralone | 10 mmol, 1.76 g | COC=1C=CC=C2CCC(CC12)=O | C11H12O2
reactant | LDA | 11 mmol, 1.5M, 7.5 mL | [Li+].CC(C)[N-]C(C)C
reactant | methyl bromopropionate | 12 mmol, 1.3 mL | BrC(C(=O)OC)C | C4H7BrO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (+-)-1,2,3,4-Tetrahydro-8-methoxy-2-oxo-1-naphthalene propionic acid methyl ester | 1.63 g, 63% | COC(CCC1C(CCC2=CC=CC(=C12)OC)=O)=O | C15H18O4
